US08232289B2
4-[[2-[4-[(2-Chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methyl]morpholin-3-one
A mixture of 2-chloro-4,4-difluoro-1′-[(3-methyl-1H-pyrazol-4-yl)methyl]spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine] (0.20 g, 0.53 mmol), 4-[(2-bromo-3-pyridyl)methyl]morpholin-3-one (0.21 g, 0.77 mmol), copper(I) iodide (0.015 g, 0.078 mmol) and cesium carbonate (0.36 g, 1.10 mmol) in dimethylformamide (5 mL) is degassed by bubbling argon for 15 minutes. (1R,2R)—N,N′-dimethylcyclohexane-1,2-diamine (0.02 g, 0.14 mmol) is added while degassing for 15 minutes and then the mixture is heated to 130° C. for 16 hours. After completion, the reaction mixture is allowed to cool to room temperature and filtered through celite. The residue is washed with ethyl acetate (2×25 mL) and the filtrate is washed with water (30 mL). The aqueous layer was extracted with ethyl acetate (2×25 mL) and the combined organic extracts are dried over sodium sulfate and concentrated in vacuo. The crude mixture is purified by column chromatography over silica gel eluting with dichloromethane/methanol (96:4) to yield 0.09 g (30%) of the title compound. MS (m/z): 564 (M+1).

reactant | 2-chloro-4,4-difluoro-1′-[(3-methyl-1H-pyrazol-4-yl)methyl]spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine] | 0.53 mmol, 0.20 g | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NNC1)C)OCC2(F)F | C16H18ClF2N3OS
reactant | 4-[(2-bromo-3-pyridyl)methyl]morpholin-3-one | 0.77 mmol, 0.21 g | BrC1=NC=CC=C1CN1C(COCC1)=O | C10H11BrN2O2
reactant | cesium carbonate | 1.10 mmol, 0.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (1R,2R)—N,N′-dimethylcyclohexane-1,2-diamine | 0.14 mmol, 0.02 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.078 mmol, 0.015 g | [Cu]I
product | 4-[[2-[4-[(2-Chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-3-methyl-pyrazol-1-yl]-3-pyridyl]methyl]morpholin-3-one | 0.09 g, 30% | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1CN1C(COCC1)=O)C)OCC2(F)F | C26H28ClF2N5O3S
